US05206235
Step A: 7-fluoro-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one
Sodium azide 1.1 g (16.92 mmol) was added to a mixture of 6.0 mL of chloroform and 1.1 mL of water at 0° C. Concentrated sulfuric acid (0.44 mL) was added dropwise and the mixture stirred at 0° C. for two hours then filtered. The chloroform layer containing hydrazoic acid was added to a solution of 1.3 g (7.92 mmol) of 6-fluoro-1-tetralone (prepared by the method of Allinger and Jones, J. Org. Chem., 27, 70-76 (1962)) in 4.8 mL of chloroform. Additional sulfuric acid (2.16 mL) was added dropwise with stirring while maintaining the temperature below 40° C. The mixture was stirred at 40° C. for two hours then at room temperature for 16 hours. The mixture was transferred to a separatory funnel and the layers were separated. The aqueous layer was added to ice; the resulting precipitate was extracted with methylene chloride (5×). The combined extracts were washed with brine, dried over magnesium sulfate and filtered through a silica plug. Solvents were removed under vacuum to afford 162 mg (0.92 mmol,11%) of the product. 1H NMR (300 MHz, CDCl3): 2.21 (m,2H), 2.32 (t,7 Hz,2H), 2.77 (t,7 Hz,2H), 6.93 (m,3H), 7.8 (br s,1H). FAB-MS: calculated for C10H10FNO 179; found 180 (M+H,100%).

reactant | Sodium azide | 16.92 mmol, 1.1 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 1.1 mL | O | H2O
reactant | sulfuric acid | 0.44 mL | S(O)(O)(=O)=O | H2O4S
reactant | 6-fluoro-1-tetralone | 7.92 mmol, 1.3 g | FC=1C=C2CCCC(C2=CC1)=O | C10H9FO
reactant | sulfuric acid | 2.16 mL | S(O)(O)(=O)=O | H2O4S
solvent | chloroform | 4.8 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 6.0 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-fluoro-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one | 0.92 mmol, 162 mg, 11% | FC=1C=CC2=C(CCCC(N2)=O)C1 | C10H10FNO
